* Schematics Netlist *

.EXTERNAL OUTPUT B2
.EXTERNAL OUTPUT B1
.EXTERNAL OUTPUT B0
.EXTERNAL OUTPUT B3


X_U5A         $N_0001 $N_0002 $N_0003 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         $N_0003 $N_0004 B3 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0002 $N_0002 $N_0005 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         $N_0005 $N_0006 $N_0007 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12A         $N_0007 $N_0008 $N_0009 B2 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         $N_0010 $N_0010 $N_0006 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         $N_0001 $N_0010 $N_0011 $N_0004 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11A         $N_0002 $N_0010 $N_0011 $N_0009 $G_DPWR $G_DGND 7410 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13A         $N_0011 $N_0006 $N_0012 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14A         $N_0013 $N_0012 B1 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         $N_0005 B0 $N_0008 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0011 $N_0011 B0 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         $N_0010 B0 $N_0013 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM5         STIM(1,0) $G_DPWR $G_DGND $N_0001 IO_STM STIMULUS=A
U_DSTM7         STIM(1,0) $G_DPWR $G_DGND $N_0002 IO_STM STIMULUS=B
U_DSTM9         STIM(1,0) $G_DPWR $G_DGND $N_0010 IO_STM STIMULUS=C
U_DSTM10         STIM(1,0) $G_DPWR $G_DGND $N_0011 IO_STM STIMULUS=D
