* Schematics Netlist *

.EXTERNAL OUTPUT G3
.EXTERNAL OUTPUT G2
.EXTERNAL OUTPUT G1
.EXTERNAL OUTPUT G0


X_U1A         G3 $N_0001 $N_0002 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         G3 $N_0003 $N_0001 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         $N_0001 $N_0003 $N_0004 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         $N_0002 $N_0004 G2 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         G2 $N_0005 $N_0006 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11A         G2 $N_0007 $N_0005 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U10A         $N_0005 $N_0007 $N_0008 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U12A         $N_0006 $N_0008 G1 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U13A         G1 $N_0009 $N_0010 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U15A         G1 $N_0011 $N_0009 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U14A         $N_0009 $N_0011 $N_0012 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U16A         $N_0010 $N_0012 G0 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM6         STIM(1,0) $G_DPWR $G_DGND G3 IO_STM STIMULUS=G3
U_DSTM8         STIM(1,0) $G_DPWR $G_DGND $N_0011 IO_STM STIMULUS=G0
U_DSTM10         STIM(1,0) $G_DPWR $G_DGND $N_0007 IO_STM STIMULUS=G1
U_DSTM9         STIM(1,0) $G_DPWR $G_DGND $N_0003 IO_STM STIMULUS=G2
