* Schematics Netlist *

.EXTERNAL OUTPUT BORROW
.EXTERNAL OUTPUT DIFFERENCE


U_DSTM1         STIM(1,0) $G_DPWR $G_DGND $N_0001 IO_STM STIMULUS=B
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND $N_0002 IO_STM STIMULUS=A
X_U1A         $N_0002 $N_0003 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         0 0 $N_0001 0 $N_0002 $N_0003 0 0 0 $N_0003 0 0 DIFFERENCE BORROW
+  $G_DPWR $G_DGND 74153 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
